US05236931
4-Amino-5-chloro-2-(phenylmethoxy)benzoic acid
A cooled (0°) suspension of 60% sodium hydride/oil dispersion (7.2 g, 180 mmol) in anhydrous N,N-dimethylformamide (200 mL) under nitrogen was treated in portions with 4-amino-5-chloro-2-hydroxybenzoic acid, methyl ester (30.24 g, 150 mmol) so as to keep the pot temperature below 20° C. After one hour at 40° C., the mixture was treated with benzyl bromide (30.8 g, 180 mmol) and heated to 100°±5° C. for one hour, then cooled to room temperature and added to water (600 mL). The aqueous solution was extracted with methylene chloride (3×250 mL), and the combined organic solution was dried (Na2SO4), concentrated in vacuo, and filtered through a short column of alumina (eluted with methylene chloride). The filtrate was concentrated in vacuo, taken up in a mixture of 50% sodium hydroxide (50 mL), water (50 mL), and ethanol (100 mL), and refluxed for one hour. Most of the ethanol was removed in vacuo and water (400 mL) was added to dissolve all solid. The aqueous solution was extracted with ether (100 mL), then with petroleum ethers (30° C.-60° C., 100 mL), cooled (0° C.), and acidified to pH 3 with concentrated hydrochloric acid (about 90 mL). The resultant precipitate was filtered and the solid was washed with water, air dried, and recrystallized (2 crops) from ethanol to afford 25.51 g (61%) of tan crystals; mp 182°-184° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-amino-5-chloro-2-hydroxybenzoic acid, methyl ester | 150 mmol, 30.24 g | NC1=CC(=C(C(=O)OC)C=C1Cl)O | C8H8ClNO3
reactant | benzyl bromide | 180 mmol, 30.8 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 600 mL | O | H2O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 4-Amino-5-chloro-2-(phenylmethoxy)benzoic acid | 25.51 g, 61% | NC1=CC(=C(C(=O)O)C=C1Cl)OCC1=CC=CC=C1 | C14H12ClNO3
